US04166818
5-Chloro-3-methyl-1,2,4-thiadiazole (27 g, 0.20 mol) was dissolved in 200 ml ethanol and, under cooling in an ice bath, added to an ethanolic solution of butylamine (44 g, 0.60 mol), stirred at room temperature overnight and evaporated to small bulk. Upon addition of ether a white precipitate of butylamine hydrochloride formed which was filtered off. The yellow filtrate was washed with water, dried over magnesium sulphate, filtered and evaporated to dryness to yield a yellow oil which was distilled under vacuum to give 5-butylamino-3-methyl-1,2,4-thiadiazole as a pale yellow liquid. Yield 29.9 g, (87.2%), b.p. 101°-102° C./0.14 mmHg.

reactant | 5-Chloro-3-methyl-1,2,4-thiadiazole | 0.20 mol, 27 g | ClC1=NC(=NS1)C | C3H3ClN2S
reactant | butylamine | 0.60 mol, 44 g | C(CCC)N | C4H11N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-butylamino-3-methyl-1,2,4-thiadiazole | C(CCC)NC1=NC(=NS1)C | C7H13N3S
